US07253292B2
step b) 5,8-dimethylindeno[2,1-b]indol-6(5H)-one
A solution of 2.19 g (0.00991 mol) of 1-methyl-3-(4-methylphenyl)-1H-indole and 3.24 mL (0.0218 mol) of TMEDA in 30 mL of ether was treated with 13.6 mL (0.0218 mol) of 1.6M BuLi in hexane under stirring at −40° C. Then the reaction mixture was allowed to warm up to r.t. and stirred for 4 h. The reaction mixture was cooled to −60° C. and treated with 1.16 g (0.00991 mol) ethyl N,N-dimethylcarbamate in 5 mL of ether. Then the reaction mixture was allowed to warm up to r.t. and was stirred overnight. Resulting mixture was treated with 50 mL of 10% aqueous NH4Cl. The violet precipitate was separated, washed twice with water and dried. Yield 1.04 g (42%).

reactant | 1-methyl-3-(4-methylphenyl)-1H-indole | 0.00991 mol, 2.19 g | CN1C=C(C2=CC=CC=C12)C1=CC=C(C=C1)C | C16H15N
reactant | TMEDA | 0.0218 mol, 3.24 mL | CN(C)CCN(C)C | C6H16N2
reactant | BuLi | 0.0218 mol, 1.6M, 13.6 mL | [Li]CCCC
reactant | ethyl N,N-dimethylcarbamate | 0.00991 mol, 1.16 g | CN(C(OCC)=O)C | C5H11NO2
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 5 mL | CCOCC | C4H10O
product | 5,8-dimethylindeno[2,1-b]indol-6(5H)-one | CN1C2=C(C3=CC=CC=C13)C1=CC=C(C=C1C2=O)C | C17H13NO
